US06984653B2
Production of 2-[(E)-2-(2-chloro-4-fluorophenyl)ethenyl]-4-[[4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-l-yl]butyl]phenoxy]methyl]-1,3-oxazole
Using 2-[(E)-2-(2-chloro-4-fluorophenyl)ethenyl]-4-(chloromethyl)-1,3-oxazole (243 mg), 4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenol (250 mg) and 65% sodium hydride (32.9 mg), the same reaction as Example 11-(i) was carried out to yield the titled compound (304 mg) as colorless needle crystals.

reactant | 2-[(E)-2-(2-chloro-4-fluorophenyl)ethenyl]-4-(chloromethyl)-1,3-oxazole | 243 mg | ClC1=C(C=CC(=C1)F)/C=C/C=1OC=C(N1)CCl | C12H8Cl2FNO
reactant | 4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenol | 250 mg | CS(=O)(=O)CC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O3S
reactant | sodium hydride | 32.9 mg | [H-].[Na+]
product | 2-[(E)-2-(2-chloro-4-fluorophenyl)ethenyl]-4-[[4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-l-yl]butyl]phenoxy]methyl]-1,3-oxazole | 304 mg | ClC1=C(C=CC(=C1)F)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CS(=O)(=O)C | C27H27ClFN3O4S
